Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain, dyspnea, dizziness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old female with PMH of schizophrenia and breast cancer 
who presents with tachycardia, dyspnea, hypertension and anion 
gap metabolic acidosis.

Her  symptoms all started around 1:30pm the day prior to 
admission.  They occurred after taking an unknown quantity of 
Benadryl (possibly ~100mg from her daughter's neighbor, and then 
another unspecified amount from her daughter).  She took the 
benadryl because she was worried about feeling stiff from her
Fluphenazine.  However, by "feeling stiff" she just meant that 
moving her arms legs was slightly more difficult, and she was 
still able to go up the stairs.

Shortly after the Benadryl, she started feeling chest pain, 
dizziness, shortness of breath, and felt generally unwell.  She 
thus presented to the ED.

Of note, she reports taking the Fluphenazine 3 times per day, 
but per prescription information was prescribed to be twice per 
day.  She also reports occasionally going in for "shots" which 
were later confirmed to be long-acting IM antipsychotics.  She 
also reports taking an herbal supplement called Black Seed Oil.

In the ED, initial VS were: 36.8 144 188/64 28 95 
In the ED, she received IV hydration and was admitted to 
medicine
 
Past Medical History:
# Schizophrenia, on fluphenazine and injectable antipscychotic
# Breast cancer, on hormonal therapy
 
Social History:
___
Family History:
mom - breast cancer
dad - CVA 
 
Physical ___:
ADMISSION EXAM
=======================
Vitals:  97.7, 148/89, HR 116, RR 18, 98 RA 
General:  Alert, oriented, no acute distress 
HEENT: Sclerae anicteric, MM slightly dry, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: CTAB, no wheezes, rales, rhonchi  
CV: tachycardic, rhythm regular, no murmurs
Abdomen: soft, NT/ND, BS+, no rebound tenderness or guarding
Ext: warm, well perfused, no edema 
Neuro:  No focal deficits, normal gait, no rigidity noted
Skin:  Rash over breast noted on left, with nipple retraction
Psych:  Normal mood and affect, normal thought process

DISCHARGE EXAM
======================
Vitals:  98.2, BP 163/95, HR 80-110, RR 18, 96% RA
General:  Alert, oriented, no acute distress, pleasant
HEENT: Sclerae anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: CTAB, no wheezes, rales, rhonchi  
CV: tachycardic, rhythm regular, no murmurs
Abdomen: soft, NT/ND, BS+, no rebound tenderness or guarding
Ext: warm, well perfused, no edema 
Neuro:  No focal deficits, normal gait, no rigidity noted
Skin:  Rash over breast noted on left, with nipple retraction
Psych:  Normal mood and affect, normal thought process
 
Pertinent Results:
ADMISSION LABS
==========================
___ 06:00PM BLOOD WBC-16.6* RBC-4.96 Hgb-15.8* Hct-46.1* 
MCV-93 MCH-31.9 MCHC-34.3 RDW-12.4 RDWSD-42.6 Plt ___
___ 06:00PM BLOOD Neuts-65.5 ___ Monos-4.1* 
Eos-0.2* Baso-0.3 Im ___ AbsNeut-10.89* AbsLymp-4.89* 
AbsMono-0.68 AbsEos-0.03* AbsBaso-0.05
___ 06:00PM BLOOD Glucose-225* UreaN-5* Creat-0.7 Na-127* 
K-3.5 Cl-88* HCO3-13* AnGap-26*
___ 06:00AM BLOOD CK(CPK)-704*
___ 06:00PM BLOOD ALT-17 AST-24 AlkPhos-87 TotBili-0.6
___ 06:00AM BLOOD Calcium-9.6 Phos-2.8 Mg-1.9
___ 06:00PM BLOOD Albumin-4.7
___ 06:00PM BLOOD D-Dimer-521*
___ 06:00AM BLOOD Osmolal-284
___ 06:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-49* 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 08:37PM BLOOD Lactate-5.3*
___ 08:37PM BLOOD ___ pO2-55* pCO2-25* pH-7.36 
calTCO2-15* Base XS--9

REPORTS
============================
CXR ___ 
No acute cardiopulmonary abnormality. 

CTA Chest, CT Abdomen/Pelvis ___. No pulmonary embolism or acute aortic abnormality. 
2. 1.1 cm thyroid nodule.  No specific follow-up is recommended 
according to current ___ College of Radiology guidelines in 
a patient of this age. 
3. Left breast nipple retraction, skin thickening and soft 
tissue density with enlarged left axillary lymph nodes is noted. 
 Correlate with history of breast cancer and mammography. 
4. Thickened distal esophagus.  Recommend correlation with 
endoscopy. 
5. Bilateral indeterminate adrenal nodules.  A dedicated adrenal 
CT can be obtained for further characterization. 
6. Fusiform abdominal aortic aneurysm measuring up to 3.2 cm. 
7. Occlusion of the left common iliac through distal external 
iliac with distal reconstitution.  If clinically indicated, a 
dedicated CTA can be performed for more complete evaluation. 
8. Extensive bilateral degenerative changes of the 
femoroacetabular joints with a large subchondral cysts the left 
acetabulum. 

ABI's ___
No evidence of arterial insufficiency to the lower extremities 
bilaterally.

MICROBIOLOGY
=========================
Urine culture - no growth
Blood cultures - no growth to date at time of discharge

DISCHARGE LABS
========================
___ 05:50AM BLOOD WBC-9.1 RBC-4.85 Hgb-15.9* Hct-46.1* 
MCV-95 MCH-32.8* MCHC-34.5 RDW-13.0 RDWSD-45.1 Plt ___
___ 05:50AM BLOOD Glucose-152* UreaN-5* Creat-0.6 Na-141 
K-4.1 Cl-99 HCO3-24 AnGap-18*
___ 05:50AM BLOOD CK(CPK)-793*
___ 05:50AM BLOOD Calcium-9.8 Phos-3.2 Mg-2.1
___ 04:04PM BLOOD Lactate-2.___ with a h/o schizophrenia and breast cancer, who presented 
with multiple symptoms including chest pain, shortness of 
breath, and dizziness, hypertension, tachycardia, multiple 
abnormal labs, dehydration, all of which likely developed in the 
setting of medication irregularity, likely anticholinergic 
toxicity.

# Anticholinergic Toxicity:
# Dehydration
Her overall constellation of signs and symptoms, in the setting 
of multiple anticholinergic medications (including too much 
Benadryl), is concerning for this.  Her hypertension, 
tachycardia, dizziness, and dehydration are all consistent with 
this.  Additionally, the black seed oil she was taking can cause 
autonomic side effects and diuresis.  She had evidence of 
dehydration on multiple lab values on admission, including 
ketones and hyaline casts on UA, hemoconcentration on CBC, 
lactic acidosis, and elevated CK.  These markers have all 
improved with IV hydration and time.  Additionally, her symptoms 
are improved following hydration and time.  She was feeling back 
to baseline prior to discharge.  We recommended to stop black 
seed oil on discharge.  We also recommended to not use 
anticholinergic medications, such as Benadryl, other than her 
home Benztropine prescribed by her Psychiatrist.

# Schizophrenia:  Per outpatient Psychiatrist (Dr. ___ in ___ 
___ who I spoke to on ___, she has relatively well 
controlled, stable Schizophrenia which is managed on 
Fluphenazine as well as a long acting injectable antipsychotic.  
However she has not gone for the injectable recently, she says 
she does not like it.  He had no preference on BID vs TID dosing 
for Fluphenazine, but had prescribed BID most recently.  On 
discharge we recommended to take Fluphenazine at home dose as 
prescribed (BID), rather than TID which she was taking.  We also 
resumed home Benztropine 1mg TID.

# Tachycardia:  Likely related to dehydration as well as 
anticholinergic toxicity.  This improved with IV hydration.

# Hypertension:  No h/o chronic HTN, but came in hypertensive, 
likely related to above. Improved prior to discharge.

# Lactic Acidosis:  Likely related to dehydration. Was initially 
5.3, following IVF it normalized to 2.0.

# AAA
# Occlusion left common iliac
In the ED, CT Abdomen was ordered evaluate for a "surgical or 
infectious process of the abdomen."  This revealed several 
findings, none of them acute, but of note a Fusiform abdominal 
aortic aneurysm measuring up to 3.2 cm, and an occlusion of the 
left common iliac, through the distal external iliac had distal 
reconstitution.  She was asymptomatic from this standpoint.  
Vascular was thus consulted in the ED.  ABI's performed at their 
request, and were unremarkable.  Outpatient Vasc f/u is 
recommended, and can be done with Dr. ___ at ___ if 
desired, at ___.

# Chest Pain, Dyspnea:  Symptoms promptly resolved, likely 
related to medication effect.  EKG, CXR, and CTA Chest were 
without acute abnormality to explain.

# Leukocytosis:  Likely reactive, and possibly hemoconcentration 
as well. Less likely infection.  Cultures no growth, and she had 
no fevers.  Normalized prior to discharge.

# Elevated CK:  Likely related to dehydration.  Renal function 
within normal limits.  Trended down.

# Microscopic Hematuria:  Initial UA showed microscopic 
hematuria.  Recommend recheck as outpatient.

# Other incidental findings on CT Scan (will fax CT report to 
Oncologist)
- Bilateral indeterminate adrenal nodules: a dedicated adrenal 
CT can be obtained for further characterization.  Given history 
of breast cancer, this is concerning
- Thyroid nodule:  No specific follow-up is recommended per 
guidelines
- Thickened distal esophagus: Recommend correlation with 
endoscopy.

TRANSITIONAL ISSUES
========================
[ ] Psychotropic medication dosing:  Pt was taking Fluphenazine 
TID, but it was prescribed BID.  Recommend BID dosing on 
discharge.  She will follow up with outpatient Psychiatrist.
[ ] Anticholinergic medications:  Recommended that she take her 
home Benztropine as prescribe, but avoid additional 
anticholinergics such as Benadryl.
[ ] Herbal medications:  Recommended that she discontinue the 
Black Seed Oil, as this can cause diuresis, dehydration, and 
also liver/kidney damage
[ ] Microscopic hematuria:  Recommend repeat UA in outpatient 
setting.  Consider Urology referral for Cystoscopy if 
persistent.
[ ] Outpatient Vasc f/u can be pursued at ___ if desired with 
Dr. ___ ___ to schedule
[ ] Thyroid nodule on CT:  No specific follow-up is recommended 
per guidelines
[ ] Thickened distal esophagus on CT: Recommend correlation with 
endoscopy. 
[ ] Bilateral indeterminate adrenal nodules on CT: a dedicated 
adrenal CT can be obtained for further characterization.  Given 
breast cancer history this is concerning
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluphenazine 2.5 mg PO BID 
2. Benztropine Mesylate 1 mg PO TID 
3. Fish Oil (Omega 3) 1000 mg PO DAILY 
4. TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
5. Senna 17.2 mg PO BID:PRN constipation 
6. Vitamin B Complex 1 CAP PO DAILY 
7. Cyanocobalamin 100 mcg PO DAILY 
8. Ferrous Sulfate 325 mg PO DAILY 

 
Discharge Medications:
1.  Benztropine Mesylate 1 mg PO TID  
2.  Cyanocobalamin 100 mcg PO DAILY  
3.  Ferrous Sulfate 325 mg PO DAILY  
4.  Fish Oil (Omega 3) 1000 mg PO DAILY  
5.  Fluphenazine 2.5 mg PO BID 
please only take twice per day  
6.  Senna 17.2 mg PO BID:PRN constipation  
7.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
RX *tramadol 50 mg 1 tablet(s) by mouth every 6 hours Disp #*12 
Tablet Refills:*0 
8.  Vitamin B Complex 1 CAP PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Anticholinergic Toxicity
Dehydration
Schizophrenia
Occlusion of the left common iliac artery
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___.  You were admitted to 
us for chest pain, trouble breathing, and dizziness that 
developed after taking lots of Benadryl.  Your evaluation with 
x-rays and CAT scan did not show any other cause for your chest 
pain and shortness of breath.

You were also found to be dehydrated.  You were given IV fluids 
to rehydrate you.  Please continue to drink plenty of fluids.

We looked into your Black Seed Oil supplement.  This can carry a 
risk of causing dehydration, high blood pressure, and other 
symptoms as well.  Our recommendation is to stop this 
supplement.

We spoke to your Psychiatrist Dr. ___.  Please take your 
Fluphenazine only twice per day for now, and discuss with Dr. 
___ possible dose changes.

Finally, the CAT scan did show that some of your arteries in 
your belly have slightly excess calcium.  There is nothing that 
requires urgent attention there, but you should see a Vascular 
Surgeon as an outpatient.  You can call the office of Dr. 
___ at ___ to schedule.

We wish you all the best
- ___ Medicine Team
 
Followup Instructions:
___